US05144045
2 [(Hexadecyloxy)methyl-2-propen-1-ol
To 18.5 q of washed sodium hydride in 500 ml of dry dimethylformamide in a water bath is added dropwise, 67.4 q of 2-butene-1,2-diol. A solution of 235 g of hexadecylbromide in 100 ml of dimethylformamide is added dropwise. This mixture is stirred at room temperature for 2 days then poured into water and extracted with ether. The ether extract is separated, dried, evaporated and purified by chromatography, to give 30 g of the desired compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-butene-1,2-diol | C(C(=CC)O)O | C4H8O2
reactant | hexadecylbromide | 235 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (Hexadecyloxy)methyl-2-propen-1-ol | 30 g | C(CCCCCCCCCCCCCCC)OCC(C=C)O | C20H40O2
